US07517896B2
XII.7. Methyl 4-({[2-(5-fluoro-2-methoxyphenyl)ethyl]amino}methyl)benzoate
5.30 g (16.8 mmol) of methyl 4-({[2-(5-fluoro-2-methoxyphenyl)ethyl]imino}-methyl)benzoate are dissolved in 48.4 ml of methanol, and 1.27 g (33.6 mmol) of sodium borohydride are added. The solution is stirred at RT for 2 hours, and water is then added and the solution is extracted with ethyl acetate. The organic phase is dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is taken up in ethyl acetate and extracted with diluted HCl. The aqueous phase is made alkaline and extracted with ethyl acetate, and the extract is dried over magnesium sulphate, filtered and concentrated under reduced pressure.

reactant | methyl 4-({[2-(5-fluoro-2-methoxyphenyl)ethyl]imino}-methyl)benzoate | 16.8 mmol, 5.30 g | FC=1C=CC(=C(C1)CCN=CC1=CC=C(C(=O)OC)C=C1)OC | C18H18FNO3
reactant | sodium borohydride | 33.6 mmol, 1.27 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 48.4 ml | CO | CH4O
product | Methyl 4-({[2-(5-fluoro-2-methoxyphenyl)ethyl]amino}methyl)benzoate | FC=1C=CC(=C(C1)CCNCC1=CC=C(C(=O)OC)C=C1)OC | C18H20FNO3
